* NGSPICE file created from sky130_asc_pnp_05v5_W3p40L3p40_7.ext - technology: sky130A

.subckt sky130_asc_pnp_05v5_W3p40L3p40_7 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X1 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X2 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X3 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X4 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X5 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
X6 Collector Base Emitter sky130_fd_pr__pnp_05v5 area=0p
.ends

