* NGSPICE file created from sky130_asc_pnp_05v5_W3p40L3p40_8.ext - technology: sky130A

.subckt sky130_asc_pnp_05v5_W3p40L3p40_8 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X7 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends

